US04572911
A mixture of 110.9 g (1.098 mole) of succinic anhydride and 985 ml of THF was cooled to 10° C. and a solution of 140.53 g (1.098 mole) of 2-(2-aminoethyl)-1-methylpyrrole in 1400 ml of THF was added dropwise over a period of thirty minutes while stirring under an atmosphere of argon, the temperature being maintained at 10 to 15° C. After the addition was complete, stirring was continued an additional one hour and then the solvent removed in vacuo to give a dark-brown, oily residue. The residue was stirred and heated at 175° in an oil bath for three hours under an atmosphere of argon. The residue was distilled on a Kugelrohr apparatus, collecting the product imide at 170° C./0.06 mm, which crystallized to yield an off white solid, mp 116°-121° C. A small sample of the intermediate imide was recrystallized from ethanol to yield a white solid, mp 120°-122° C. A solution of 100 g (0.485 mole) of the above-obtained crude imide was added to 3-1 of 90% aqueous ethanol and the mixture cooled in an ice bath to about 3° C. Sodium borohydride (68.42 g; 1.81 moles) was added and about 25 ml of 2N hydrochloric acid was added dropwise with stirring over a five hour period by means of a metering pump while maintaining a temperature of 0° to 3° C. After the addition was complete (pH=8-9), the reaction was acidified with 1-1 of 2N hydrochloric acid over a period of 1.5 hours while maintaining a temperature of less than 10° C. Stirring (under nitrogen) was continued overnight as the temperature was allowed to gradually warm to ambient, during which time the mixture became a clear, colorless solution. The solvent was partially removed in vacuo using low heat to a final volume of about 800 mls, diluted with 800 mls of water and extracted three times with 300 ml portions of methylene chloride. The combined extracts were washed with 300 ml of water, 300 ml of brine, and dried over anhydrous potassium carbonate. The solvent was removed in vacuo to give 31.07 g of a crude tan solid. The crude solid was recrystallized from about 100 ml of hot EtOAc to give 23.76 g of nearly pure 4,5,7,8,9,9a-hexahydro-3-methyl-3H-pyrrolo[2,3-g]indolizin-7-one, an off-white solid, mp 122°-125° C.

reactant | succinic anhydride | 1.098 mole, 110.9 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 2-(2-aminoethyl)-1-methylpyrrole | 1.098 mole, 140.53 g | NCCC=1N(C=CC1)C | C7H12N2
reactant | Sodium borohydride | 1.81 moles, 68.42 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2N, about 25 ml | Cl | ClH
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 1400 ml | C1CCOC1 | C4H8O
solvent | THF | 985 ml | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 4,5,7,8,9,9a-hexahydro-3-methyl-3H-pyrrolo[2,3-g]indolizin-7-one | CN1C=CC2=C1CCN1C(CCC21)=O | C11H14N2O
